US04992438
2-Anilino-4-methyl-6-(1-propynyl)pyrimidine (2.2 g) was added to a suspension in 50 ml of tetrahydrofuran of 0.5 g of sodium hydride (60%) of which oily component was removed with n-hexane, and the mixture was stirred for 30 minutes at 50°-55° C. After cooling to room temperature, 1.0 g of chloromethyl methyl ether was added to the mixture and stirred for 3 hours. The reaction mixture was poured into water and extracted with 150 ml of toluene. the toluene layer was washed with water, dried over Glauber's salt and concentrated by evaporation under reduced pressure. The residue was purified by silica gel column chromatography to obtain 1.7 g (yield: 63%) of 2-(N-methoxymethylanilino)-4-methyl-6-(1-propynyl)pyrimidine.

reactant | 2-Anilino-4-methyl-6-(1-propynyl)pyrimidine | 2.2 g | N(C1=CC=CC=C1)C1=NC(=CC(=N1)C)C#CC | C14H13N3
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(N-methoxymethylanilino)-4-methyl-6-(1-propynyl)pyrimidine | 1.7 g, yield: 63% | COCN(C1=CC=CC=C1)C1=NC(=CC(=N1)C)C#CC | C16H17N3O
